US07935722B2
3-[6-Cyano-9-(3-fluorobenzyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-1,1-dimethylurea
Prepare the title compound by essentially following the procedures as described in Example 162, using 6-amino-9-(3-fluoro-benzyl)-6,7,8,9-tetrahydro-5H-carbazole-3-carbonitrile hydrochloride (Preparation 54) and dimethylcarbamyl chloride. Purify by silica gel chromatography (30-70% (4% (2M NH3/MeOH)/CH2Cl2)/hexanes) to give the title compound in 69% yield as a white solid. MS (ES): m/z 391 (M+1), 389 (M−1); HPLC (Method B): Rt=4.11 min (99%).

reactant | 6-amino-9-(3-fluoro-benzyl)-6,7,8,9-tetrahydro-5H-carbazole-3-carbonitrile hydrochloride | Cl.NC1CC=2C=3C=C(C=CC3N(C2CC1)CC1=CC(=CC=C1)F)C#N
reactant | dimethylcarbamyl chloride | CN(C(=O)Cl)C | C3H6ClNO
product | 3-[6-Cyano-9-(3-fluorobenzyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-1,1-dimethylurea | 69% yield | C(#N)C=1C=C2C=3CC(CCC3N(C2=CC1)CC1=CC(=CC=C1)F)NC(N(C)C)=O | C23H23FN4O
